US08334287B2
4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-ethyl-1H-pyridin-2-one
The title compound, orange gum, MS: m/e=338.3, 340.2 (M+H+), was prepared in accordance with the general method of example 2 from 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one and ethyl iodide in acetone instead of DME.

reactant | 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(NC=C1)=O)C | C17H12ClN3O
reactant | ethyl iodide | C(C)I | C2H5I
solvent | acetone | CC(=O)C | C3H6O
product | 4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1-ethyl-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC(N(C=C1)CC)=O)C | C19H16ClN3O
